US07183302B2
2-(4-Morpholin-4-yl-phenylimino)-3-pyridin-2-yl-thiazolidin-4-one
3-(2-pyridyl)-2-thioxo-thiazolidin-4-one (1.1 g, 5.3 mmol, 1.0 equiv), prepared as described in J. Chem. Soc. (1956) 1644, was dissolved in 30 ml THF and charged with 4-morpholin-4-yl aniline (0.94 g, 5.28 mmol, 1.0 equiv) and Et3N (1.47 ml, 10.6 mmol, 2.0 equiv). Mercury (II) chloride (1.4 g, 5.28 mmol, 1.0 equiv) was added in one portion as a solid, and the heterogeneous mixture was stirred at ambient temperature overnight. The reaction mixture was filtered through Celite, and the filtrate was partitioned between EtOAc and saturated NH4Cl. The organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo. Flash chromatography (40% to 100% EtOAc in hexanes, silica) afforded 0.83 g (44%) of the title compound: 1H NMR (300 MHz, CDCl3) δ 8.70 (m, 1H), 7.90 (m, 1H), 7.37–7.44 (m, 2H), 3.99 (s, 2H), 3.84 (m, 4H), 3.11 (m, 4H); MS (ESI) m/z=355.3 (MH+).

reactant | 3-(2-pyridyl)-2-thioxo-thiazolidin-4-one | 5.3 mmol, 1.1 g, 1.0 equiv | N1=C(C=CC=C1)N1C(SCC1=O)=S | C8H6N2OS2
reactant | 4-morpholin-4-yl aniline | 5.28 mmol, 0.94 g, 1.0 equiv | N1(CCOCC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | Et3N | 10.6 mmol, 1.47 ml, 2.0 equiv | CCN(CC)CC | C6H15N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
catalyst | Mercury (II) chloride | 5.28 mmol, 1.4 g, 1.0 equiv | [Hg](Cl)Cl
product | 2-(4-Morpholin-4-yl-phenylimino)-3-pyridin-2-yl-thiazolidin-4-one | 0.83 g, 44% | N1(CCOCC1)C1=CC=C(C=C1)N=C1SCC(N1C1=NC=CC=C1)=O | C18H18N4O2S
